US07288537B2
A solution of 3,4,5-trimethoxy-benzoic acid (0.246 g, 1.16 mmol) and diisopropylethylamine (0.62 ml, 3.47 mmol) in dry dimethylformamide (10 ml) is treated with [(benzotriazol-1-yloxy)-dimethylamino methylene]-dimethyl-ammonium; tetrafluoro borate (0.32 g, 1.0 mmol). The reaction mixture is stirred at ambient temperature for 5 minutes, then (S)-1-tert-butoxymethyl-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propylamine (0.968 mmol) is added and the reaction mixture stirred for 20 hours. The dimethylformamide is evaporated and the residue partitioned between ethylacetate and saturated aqueous NaHCO3. The ethylacetate phase is washed with brine, dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution 50% ethylacetate/hexane to 100% ethylacetate) to afford N-{(S)-1-tert-butoxymethyl-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propyl}-3,4,5-trimethoxy-benzamide [MH]+ 505.3.

reactant | 3,4,5-trimethoxy-benzoic acid | 1.16 mmol, 0.246 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | diisopropylethylamine | 3.47 mmol, 0.62 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | [(benzotriazol-1-yloxy)-dimethylamino methylene]-dimethyl-ammonium | N1(N=NC2=C1C=CC=C2)OC(N(C)C)=[N+](C)C
reactant | tetrafluoro borate | 1.0 mmol, 0.32 g | [B-](F)(F)(F)F.CCCC[P+](CCCC)(CCCC)C1SC(=C(S1)C(=O)OC)C(=O)OC
reactant | (S)-1-tert-butoxymethyl-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propylamine | 0.968 mmol | C(C)(C)(C)OC[C@H](CCN1CC(C1)OC1=CC=C(C=C1)F)N | C17H27FN2O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-{(S)-1-tert-butoxymethyl-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propyl}-3,4,5-trimethoxy-benzamide | C(C)(C)(C)OC[C@H](CCN1CC(C1)OC1=CC=C(C=C1)F)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C27H37FN2O6
